US06110952
A solution of 3-ethyl-2-nitroanisole (89.73 mmol) in acetic acid (200 mL) is treated dropwise with a mixture of concentrated nitric acid (89.73 mmol, d=1.41 g/mL) and acetic acid (40 mL). After addition of the nitric acid solution, concentrated sulfuric acid (40 mL) is added dropwise. The reaction is poured over crushed ice (500 g) and stirred for 1 hour while a white precipitate forms. The precipitate is filtered and dried in a vacuum to afford a white solid. This material is purified by chromatography (silica gel, 20% ethyl acetate/hexanes) to afford 2,4-dinitro-3-ethylanisole.

reactant | 3-ethyl-2-nitroanisole | 89.73 mmol | C(C)C=1C(=C(C=CC1)OC)[N+](=O)[O-] | C9H11NO3
reactant | nitric acid | 89.73 mmol | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 40 mL | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
product | 2,4-dinitro-3-ethylanisole | [N+](=O)([O-])C1=C(C=CC(=C1CC)[N+](=O)[O-])OC | C9H10N2O5
